US06743820B2
A mixture of 5-chloro-2-hydroxybenzenesulfonic acid, sodium salt (7.9 g), NaOH (1.37 g) and water (25 ml) was heated on a boiling water bath until the mixture became homogeneous. Styreneoxide (2.4 g) was added dropwise over a period of 10 minutes and the mixture was heated with stirring on a boiling water bath for 1 hr. It was extracted with ether and the aqueous solution was evaporated to dryness. The residue was treated with water and the insoluble white precipitate was collected by filtration and washed with 5 mL water to obtain 2-(4-chloro-2-sulfophenoxy)-2-phenylethanol (4.1 g).

reactant | 5-chloro-2-hydroxybenzenesulfonic acid | ClC=1C=CC(=C(C1)S(=O)(=O)O)O | C6H5ClO4S
reactant | sodium | 7.9 g | [Na] | Na
reactant | NaOH | 1.37 g | [OH-].[Na+]
reactant | Styreneoxide | 2.4 g | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | water | 25 ml | O | H2O
product | 2-(4-chloro-2-sulfophenoxy)-2-phenylethanol | 4.1 g | ClC1=CC(=C(OC(CO)C2=CC=CC=C2)C=C1)S(=O)(=O)O | C14H13ClO5S
